US09023849B2
3-[1-(2-Fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-7,7-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-e][1,2,4]triazin-6-one
48 mg (0.06 mmol, purity 54%) of methyl 2-{3-[1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate were admixed with 0.5 ml (5.36 mmol) of phosphoryl chloride and the mixture was stirred at RT for 2.5 h. The reaction solution was diluted with 10 ml of dry acetonitrile and gradually added dropwise while cooling with ice to 5 ml of a 25% aqueous ammonia solution, and the mixture was stirred at RT for 8 h. The reaction mixture was concentrated on a rotary evaporator and the residue was partitioned between dichloromethane/water. The organic phase was dried over sodium sulphate and concentrated on a rotary evaporator. The residue was purified by means of preparative HPLC (eluent: acetonitrile/water with 0.1% hydrochloric acid, gradient 20:80→100:0). 4.5 mg of the target compound were obtained (18% of theory).

reactant | methyl 2-{3-[1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate | 0.06 mmol, 48 mg | FC1=C(CN2N=C(C3=C2CCC3)C=3N=NC(=C(N3)O)C(C(=O)OC)(C)C)C=CC=C1 | C21H22FN5O3
reactant | phosphoryl chloride | 5.36 mmol, 0.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-[1-(2-Fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-7,7-dimethyl-5,7-dihydro-6H-pyrrolo[2,3-e][1,2,4]triazin-6-one | 4.5 mg | FC1=C(CN2N=C(C3=C2CCC3)C=3N=NC2=C(N3)NC(C2(C)C)=O)C=CC=C1 | C20H19FN6O
